US05708008
N-ethyl-N'-(3-(1-methylpiperidin-4-yl)-1H-indol-5-yl)urea
To a solution of 15.0 mg 0.0655 mMol) 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole in 3.0 mL chloroform were added 9.3 mg 0.131 mMol) ethyl isocyanate. The reaction was mixed for 48 hours and to it were then added 0.23 gm 0.131 mMol)aminomethylated polystyrene and the reaction mixed for an additional 18 hours. The reaction mixture was then filtered and the volatiles evaporated to give 16.1 mg (82%) of the title compound.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | ethyl isocyanate | C(C)N=C=O | C3H5NO
solvent | chloroform | 3.0 mL | C(Cl)(Cl)Cl | CHCl3
product | N-ethyl-N'-(3-(1-methylpiperidin-4-yl)-1H-indol-5-yl)urea | 16.1 mg, 82% | C(C)NC(=O)NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C17H24N4O
